US09399640B2
Step 2. 4-Bromo-N-(2-morpholin-4-ylethyl)-2-nitro-3-phenoxyaniline
A solution of 1-bromo-4-fluoro-3-nitro-2-phenoxybenzene (0.057 g, 0.18 mmol) and cesium carbonate (0.0715 g, 0.220 mmol) in dimethyl sulfoxide (0.20 mL, 2.8 mmol) was treated with N-(2-aminoethyl)morpholine (0.0289 mL, 0.220 mmol) and stirred at 20° C. for 24 h, after which time the reaction mixture was diluted with water and ethyl acetate. Layers were separated and the organic layer was washed with brine, dried with magnesium sulfate, filtered, and concentrated in vacuo to give the crude product. Purification by flash column chromatography (100% hexanes to 100% EtOAc) gave the desired product (60 mg, 78%) a brown oil. LCMS calculated for C18H21BrN3O4 (M+H)+: m/z=422.1, 424.1. found: 422.1, 424.1.

reactant | 1-bromo-4-fluoro-3-nitro-2-phenoxybenzene | 0.18 mmol, 0.057 g | BrC1=C(C(=C(C=C1)F)[N+](=O)[O-])OC1=CC=CC=C1 | C12H7BrFNO3
reactant | cesium carbonate | 0.220 mmol, 0.0715 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | dimethyl sulfoxide | 2.8 mmol, 0.20 mL | CS(=O)C | C2H6OS
reactant | N-(2-aminoethyl)morpholine | 0.220 mmol, 0.0289 mL | NCCN1CCOCC1 | C6H14N2O
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Bromo-N-(2-morpholin-4-ylethyl)-2-nitro-3-phenoxyaniline | 60 mg, 78% | BrC1=C(C(=C(NCCN2CCOCC2)C=C1)[N+](=O)[O-])OC1=CC=CC=C1 | C18H20BrN3O4
